US08420666B2
Step b: Preparation of 5-[2-(benzyloxy)-5-oxa-6-azaspiro[3.4]oct-6-en-7-yl]-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine
Trifluoroacetic acid (0.41 gm, 3.61 mmol) was added to the solution of 5-[2-(benzyloxy)-5-oxa-6-azaspiro[3.4]oct-6-en-7-yl]-1-(4-methoxybenzyl)-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine (0.4 gm, 0.72 mmol) (step a) in dichloroethane (5 ml) and the reaction mixture was refluxed for about 2 hours under inert atmosphere. It was cooled, diluted with ethyl acetate, washed with saturated sodium bicarbonate, water and brine, dried over anhydrous sodium sulphate and concentrated under reduced pressure to get the title compound.

reactant | Trifluoroacetic acid | 3.61 mmol, 0.41 gm | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-[2-(benzyloxy)-5-oxa-6-azaspiro[3.4]oct-6-en-7-yl]-1-(4-methoxybenzyl)-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine | 0.72 mmol, 0.4 gm | C(C1=CC=CC=C1)OC1CC2(C1)ON=C(C2)C2=C(C1=C(N=C2)N(N=C1)CC1=CC=C(C=C1)OC)NC1CCOCC1 | C32H35N5O4
solvent | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[2-(benzyloxy)-5-oxa-6-azaspiro[3.4]oct-6-en-7-yl]-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine | C(C1=CC=CC=C1)OC1CC2(C1)ON=C(C2)C2=C(C1=C(N=C2)NN=C1)NC1CCOCC1 | C24H27N5O3
